US08349849B2
To a solution of 7-hydroxyquinoline-3-carbaldehyde (1.3 g, 7.5 mmol) in DMF (30 mL) was added 1-bromo-heptane (5.37 g, 30 mmol, 4 eq.) and K2CO3 (2.0 g, 15 mmol, 2 eq.). The mixture was warmed to 60° C. over 3 h. Then, the reaction mixture was diluted (water), extracted (ethyl acetate), washed (brine), dried (Na2SO4), filtered and evaporated to dryness to give the crude product, which was purified by silica gel column chromatography (pet. ether:ethyl acetate, 10:1) to give 7-(heptyloxy)quinoline-3-carbaldehyde as yellow solid (610 mg, yield 30%). ESI-MS: 272 (M+H)+.

reactant | 7-hydroxyquinoline-3-carbaldehyde | 7.5 mmol, 1.3 g | OC1=CC=C2C=C(C=NC2=C1)C=O | C10H7NO2
reactant | 1-bromo-heptane | 30 mmol, 5.37 g, 4 eq. | BrCCCCCCC | C7H15Br
reactant | K2CO3 | 15 mmol, 2.0 g, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 7-(heptyloxy)quinoline-3-carbaldehyde | 610 mg, yield 30% | C(CCCCCC)OC1=CC=C2C=C(C=NC2=C1)C=O | C17H21NO2
